US07829560B2
3-Fluoro-N-[4-({2-[(1-methylpiperidin-4-yl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-5-morpholin-4-ylbenzamide (Compound B362).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and 1-methyl-piperidin-4-ylamine according to conditions described in general procedure C. Mp: 128-129° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.41-1.84 (m, 4 H), 2.09 (s, 3 H), 2.66 (bs, 2 H), 3.26-3.80 (m, 3 H), 3.27 (t, J=4.7 Hz, 4 H), 3.76 (t, J=4.7 Hz, 4H), 6.32 (s, 1 H), 7.05 (d, J=12.4 Hz, 2 H), 7.27 (d, J=8.4 Hz, 1 H), 7.40 (d, J=8.0 Hz, 1 H), 7.47 (s, 1 H), 7.55-7.60 (m, 3 H), 7.82 (d, J=8.0 Hz, 1 H), 8.00 (d, J=7.7 Hz, 1 H), 8.23 (bs, 1 H), 10.45 (s, 1 H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | 1-methyl-piperidin-4-ylamine | CN1CCC(CC1)N | C6H14N2
product | 3-Fluoro-N-[4-({2-[(1-methylpiperidin-4-yl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)NC2CCN(CC2)C)C=C(C1)N1CCOCC1 | C31H33FN6O3
